US04462923
A mixture of 16.8 g of 4-hydroxy-3-(hydroxymethyl)-benzoic acid, 1000 ml of benzene, 15.0 g of caproaldehyde and 0.36 ml of concentrated sulphuric acid is boiled for 5 hours while stirring under a water separator. After cooling, the mixture is filtered. The filtrate is concentrated and the residue is boiled up with hexane. The insoluble material is dissolved in ether/hexane and stirred up in the cold with active carbon. The mixture is filtered, the filtrate is evaporated and the residue is boiled with isopropyl ether. There are obtained 11.7 g of beige colored 2-pentyl-1,3-benzodioxan-6-carboxylic acid; m.p. 148° C.

reactant | 4-hydroxy-3-(hydroxymethyl)-benzoic acid | 16.8 g | OC1=C(C=C(C(=O)O)C=C1)CO | C8H8O4
reactant | caproaldehyde | 15.0 g | C(CCCCC)=O | C6H12O
reactant | sulphuric acid | 0.36 ml | S(O)(O)(=O)=O | H2O4S
solvent | benzene | 1000 ml | C1=CC=CC=C1 | C6H6
product | 2-pentyl-1,3-benzodioxan-6-carboxylic acid | 11.7 g | C(CCCC)C1OCC2=C(O1)C=CC(=C2)C(=O)O | C14H18O4
